US06998412B2
Sodium 2-(2-thenoylamino)acetate
To 200 ml of a solution of 16.70 g of methyl 2-(2-thenoylamino)acetate in methanol, 20 ml of aqueous solution of 4.02 g sodium hydroxide was added, and heated to reflux for 30 minutes. The solvent was distilled off under reduced pressure. The residue was crystallized by addition of isopropanol to provide 18.03 g of the objective compound as pale yellow crystals.

reactant | methyl 2-(2-thenoylamino)acetate | 16.70 g | C1(=CC=CS1)C(=O)NCC(=O)OC | C8H9NO3S
reactant | sodium hydroxide | 4.02 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | Sodium 2-(2-thenoylamino)acetate | 18.03 g | C1(=CC=CS1)C(=O)NCC(=O)[O-].[Na+] | InChI=1S/C7H7NO3S.Na/c9-6(10)4-8-7(11)5-2-1-3-12-5;/h1-3H,4H2,(H,8,11)(H,9,10);/q;+1/p-1
